US05128062
(1) Synthesis of (S)-4-(2-Chloro-3-methylpentanoyloxy)benzoic acid
Using p-hydroxybenzoic acid (1.93 g, 14.0 mmol) and (S)-2-chloro-3-methylpentanoylchloride (2.28 g, 13.5 mmol), the reaction was carried out in the same manner as described in Example 4, (1), to give the title compound as white crystals; yield: 2.95 g; mp. 97.0°-100.5° C.

reactant | p-hydroxybenzoic acid | 14.0 mmol, 1.93 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | (S)-2-chloro-3-methylpentanoylchloride | 13.5 mmol, 2.28 g | Cl[C@H](C(=O)Cl)C(CC)C | C6H10Cl2O
product | (S)-4-(2-Chloro-3-methylpentanoyloxy)benzoic acid | Cl[C@H](C(=O)OC1=CC=C(C(=O)O)C=C1)C(CC)C | C13H15ClO4
